US08258130B2
A solution of 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (490 mg, 2.28 mmol) and 3-ethyl-5-fluoropyrrolo[2,3-b]pyridin-1-ylamine (340 mg, 1.9 mmol) in DMF (6 mL) is stirred at 40° C. for 1 h. The mixture is treated with DMTMM (524 mg, 1.9 mmol) and stirred at 40° C. for 1 h. The mixture is diluted with saturated aqueous Na2CO3 (5 mL) and stirred for 5 min. The precipitate is collected by filtration and dried in vacuo to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (3-ethyl-5-fluoro-pyrrolo[2,3-b]pyridin-1-yl)-amide (427 mg, 60%). MS: 377 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 11.94 (s, NH, 1H), 9.14 (s, 1H), 8.81 (d, 1H), 8.47 (d, 1H), 8.30 (s, 1H), 8.03 (m, 2H), 7.61 (m, 2H), 2.81 (s, 3H), 2.75 (q, 2H), 1.29 (t, 3H).

reactant | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid | 2.28 mmol, 490 mg | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=C1 | C11H9N3O2
reactant | 3-ethyl-5-fluoropyrrolo[2,3-b]pyridin-1-ylamine | 1.9 mmol, 340 mg | C(C)C1=CN(C2=NC=C(C=C21)F)N | C9H10FN3
reactant | DMTMM | 1.9 mmol, 524 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (3-ethyl-5-fluoro-pyrrolo[2,3-b]pyridin-1-yl)-amide | 427 mg, 60% | C(C)C1=CN(C2=NC=C(C=C21)F)NC(=O)C=2C(=NC(=NC2)C2=NC=CC=C2)C | C20H17FN6O
